US05047518
A. 1,6-Anhydro-α-L-gulopyranose
Syrupy L-gulose was heated on a steam bath in water with strong acid resin (Dowex 50 W-X8, H+ form) for 64 h. The solution was then filtered, the resin washed with water, and the combined filtrate was passed onto a column packed with strong base resin (Amberlite IRA-900, OH- form). The column was washed with distilled water to elute the title compound which crystallized from ethanol. Recrystallized from ethanol it has mp 155.5°-156.5° C. The column was then immediately washed with aqueous acetic acid (M) to elute unreacted L-gulose which was recycled to provide further title compound.

reactant | L-gulose | O=C[C@@H](O)[C@@H](O)[C@H](O)[C@@H](O)CO | C6H12O6
solvent | water | O | H2O
product | 1,6-Anhydro-α-L-gulopyranose | [C@H]12[C@@H](O)[C@@H](O)[C@H](O)[C@@H](O1)CO2 | C6H10O5
